US06821972B2
N′-Hydroxy-3-(methylamino)-2-pyrazinecarboximidamide
To a solution of 2-methylamino-3-cyanopyrazine (J. Heterocycl. Chem. 1992, 29, 1689-92) (0.37 g, 2.8 mmol) in methanol (10 mL) was added triethylamine (0.4 mL, 2.8 mmol) followed by hydroxylamine hydrochloride (0.19 g, 2.8 mmol) and the reaction was stirred at room temperature for 4 hours. The mixture was filtered, the filtrate was then evaporated to dryness. The residue was dissolved in ethyl acetate (50 mL) and washed with water (50 mL). The organic layer was dried (MgSO4) and the solvent was removed in vacuo to give the title compound was a white solid (0.45 g).

reactant | 2-methylamino-3-cyanopyrazine | 2.8 mmol, 0.37 g | CNC1=NC=CN=C1C#N | C6H6N4
reactant | triethylamine | 2.8 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 2.8 mmol, 0.19 g | Cl.NO
solvent | methanol | 10 mL | CO | CH4O
product | N′-Hydroxy-3-(methylamino)-2-pyrazinecarboximidamide | ON=C(N)C1=NC=CN=C1NC | C6H9N5O
